US08198456B2
1H-pyrazolo[4,3-b]pyridine-5-carboxylic acid, methyl ester (420 mg, 2.37 mmol) was dissolved in THF (30 mL) and cooled to 0° C. LiAlH4 (360 mg, 9.48 mmol) was added in one portion. The mixture was stirred at 0° C. for 3 hr, and diluted with ether. 50% NaOH (5 mL) was added to quench the reaction, and the solid was filtered off through Celite. The filtrate was concentrated, and the residue was purified by flash chromatography to afford 1H-pyrazolo[4,3-b]pyridine-5-methanol (270 mg, 76.4%).

reactant | 1H-pyrazolo[4,3-b]pyridine-5-carboxylic acid, methyl ester | 2.37 mmol, 420 mg | N1N=CC2=NC(=CC=C21)C(=O)OC | C8H7N3O2
reactant | LiAlH4 | 9.48 mmol, 360 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | NaOH | 5 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 1H-pyrazolo[4,3-b]pyridine-5-methanol | 270 mg, 76.4% | N1N=CC2=NC(=CC=C21)CO | C7H7N3O
